US06458798B1
N-(2-Amino-5-benzyl-6-methylpyrimidine-4-yl)-N-pentylamine
A mixture of 5-benzyl-4-chloro-6-methylpyrimidine-2-ylamine (500 mg, 2.14 mmol) , amylamine (1.24 ml ) and dioxane (4 ml ) was kept at 95-100° C. for 19 hours. The reaction mixture was concentrated in vacuo, and the residue was extracted with chloroform and a saturated aqueous NaHCO3 solution. The organic layer was washed with saturated brine, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by silica gel column chromatography (2%MeOH/CHCl3) to give the object compound (546 mg, 89.7%).

reactant | 5-benzyl-4-chloro-6-methylpyrimidine-2-ylamine | 2.14 mmol, 500 mg | C(C1=CC=CC=C1)C=1C(=NC(=NC1C)N)Cl | C12H12ClN3
reactant | amylamine | 1.24 ml | C(CCCC)N | C5H13N
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | N-(2-Amino-5-benzyl-6-methylpyrimidine-4-yl)-N-pentylamine | 546 mg, 89.7% | NC1=NC(=C(C(=N1)NCCCCC)CC1=CC=CC=C1)C | C17H24N4
